US08859534B2
7-Bromo-5-fluoro-benzofuran-2-carboxylic acid
Methyl chloroacetate (7.6 mL, 86.8 mmol) was added to a mixture of 3-bromo-5-fluoro-2-hydroxy-benzaldehyde (9.5 g, 43.4 mmol), tetra-N-butyl-ammonium iodide (1.6 g, 4.34 mmol) and anhydrous potassium carbonate (24 g, 174 mmol). The reaction mixture was heated at 130° C. for 4 h, cooled to 0° C., diluted with tetrahydrofuran (100 mL) and then potassium hydroxide (17 g, 303 mmol) in water (100 mL). The mixture was stirred at rt for 18 h and then, concentrated under reduced pressure. The residue was acidified with HCl and extracted with ethyl acetate. The combined organic extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude compound was purified by flash chromatography (SiO2; toluene/EtOAc, 40/1) to give 7.0 g (63%) of the product.

reactant | Methyl chloroacetate | 86.8 mmol, 7.6 mL | ClCC(=O)OC | C3H5ClO2
reactant | 3-bromo-5-fluoro-2-hydroxy-benzaldehyde | 43.4 mmol, 9.5 g | BrC=1C(=C(C=O)C=C(C1)F)O | C7H4BrFO2
reactant | potassium carbonate | 174 mmol, 24 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 303 mmol, 17 g | [OH-].[K+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 7-Bromo-5-fluoro-benzofuran-2-carboxylic acid | 7.0 g, 63% | BrC1=CC(=CC=2C=C(OC21)C(=O)O)F | C9H4BrFO3
